datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S][H])[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S][H])[O][H] 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[O]2.C[NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([O]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([O]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21]C)[S]C(CC)C(CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(CC)C(CC)[S]2.[H][O:10][H] 21=20;20,10=10"
"CCN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CC)[H]>>CCN([C:20](=[O:10])OC1=CC=CC=C1)[H].[O-:21]CC 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)[H])CC>>[H]C1C(C(O[C:20](=[O:10])N1CC)[H])CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[O-:10]C(CCC)C(C)C(O)C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(O)C(C)C(CCC)[O:10]1 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])[H].[O-:21][H]>>CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])[H])[H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)C)CC>>CCN([C:20]1(OC(C(C([O:21]1)[H])C)C)[O-:10])CC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH]([H])[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[NH][H] 10=20;20,21=21"
"[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[NH]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[NH]C 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C(CC)[O][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"CCCCCCN([C:20]([O-:10])(OCC)[O:21]CC)CC>>CCCCCCN([C:20](=[O:10])OCC)CC.[O-:21]CC 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C(O)C(C)C(C)C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C(C)C(C)C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)[H])C>>CC1C(C(O[C:20](=[O:10])N1C)[H])C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[O]2.C[S:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C)C1=CC=CC=C1)C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)C.[O-:21]C 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)[H].[O-:21][H]>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])CC)[H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[O][H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C)[S]1 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(CC)[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H][NH:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[NH:10](C)C(C)C(O)C(O)C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C(O)C(O)C(C)[NH+:10]1(C) 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[Li][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)O[H])C1=CC=CC=C1>>[Li][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OC1=CC=CC=C1)O[H] 10=20;20,21=21"
